US08530504B2
2-Bromo-1,3-dimethoxy-5-(1-methoxyethyl)benzene
To a tetrahydrofuran (100 mL) solution of 1-(4-bromo-3,5-dimethoxyphenyl)ethanol (7.24 g, 27.7 mmol) was added sodium hydride (1.33 g, 33.2 mmol) at 0° C., and the mixture was stirred for 10 minutes. To the mixture was added dropwise iodomethane (1.90 mL, 30.5 mmol), and the mixture was stirred at room temperature for one hour. After the reaction was completed, water was added to the reaction mixture while cooling on ice, which was extracted with ethyl acetate and dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-heptane/ethyl acetate: 10/1 then 1/4) to obtain the title compound (7.39 g, 26.9 mmol).

reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | 1-(4-bromo-3,5-dimethoxyphenyl)ethanol | 27.7 mmol, 7.24 g | BrC1=C(C=C(C=C1OC)C(C)O)OC | C10H13BrO3
reactant | sodium hydride | 33.2 mmol, 1.33 g | [H-].[Na+]
reactant | iodomethane | 30.5 mmol, 1.90 mL | IC | CH3I
solvent | water | O | H2O
product | 2-Bromo-1,3-dimethoxy-5-(1-methoxyethyl)benzene | 26.9 mmol, 7.39 g | BrC1=C(C=C(C=C1OC)C(C)OC)OC | C11H15BrO3
